US08604019B2
N-[2-(2,3-Dihydro-1,4-benzoxazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine and propane-1,3-diamine, followed by reaction with 2,3,4,5-tetrahydro-1,4-benzoxazepine. MS obsd. (ESI+) [(M+H)+] 370; 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.43 (d, J=6.6 Hz, 1H), 7.10-7.19 (m, 1H), 6.94-7.05 (m, 2H), 6.80 (s, 1H), 4.92 (s, 2H), 4.25-4.32 (m, 2H), 4.14-4.21 (m, 2H), 3.74 (br. s., 2H), 2.96 (t, J=6.3 Hz, 2H), 2.49-2.57 (m, 3H), 1.88 (m, 2H).

reactant | 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)C)Cl | C7H4Cl2N2S
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepine | O1CCNCC2=C1C=CC=C2 | C9H11NO
product | N-[2-(2,3-Dihydro-1,4-benzoxazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | O1CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=C(S1)C)NCCCN | C19H23N5OS
